US05661158
To a mixture of 2-ethyl-5,7-dimethyl-3-[4-[1-ethyl-5-methyl-3-(1H-tetrazol-5-yl)pyrrol-2-yl]benzyl]-3H-imidazo-[4,5-b]pyridine (3.54 g) and ethanol (18 ml) was added 12N hydrochloric acid (0.8 ml), and the reaction mixture was heated in a boiling bath for a few minutes. The resultant solution was evaporated in vacuo, and the residue was crystallized from a mixture of 1N hydrochloric acid and ethanol to afford 2-ethyl-5,7-dimethyl-3-[4-[1-ethyl-5-methyl-3-(1H-tetrazol-5-yl)pyrrol-2-yl]benzyl]-3H-imidazo-[4,5-b]pyridine hydrochloride (2.38 g). m.p. 246°-248° C.

reactant | 2-ethyl-5,7-dimethyl-3-[4-[1-ethyl-5-methyl-3-(1H-tetrazol-5-yl)pyrrol-2-yl]benzyl]-3H-imidazo-[4,5-b]pyridine | 3.54 g | C(C)C1=NC=2C(=NC(=CC2C)C)N1CC1=CC=C(C=C1)C=1N(C(=CC1C1=NN=NN1)C)CC | C25H28N8
reactant | hydrochloric acid | 12N, 0.8 ml | Cl | ClH
solvent | ethanol | 18 ml | C(C)O | C2H6O
product | 2-ethyl-5,7-dimethyl-3-[4-[1-ethyl-5-methyl-3-(1H-tetrazol-5-yl)pyrrol-2-yl]benzyl]-3H-imidazo-[4,5-b]pyridine hydrochloride | 2.38 g | Cl.C(C)C1=NC=2C(=NC(=CC2C)C)N1CC1=CC=C(C=C1)C=1N(C(=CC1C1=NN=NN1)C)CC | InChI=1S/C25H28N8.ClH/c1-6-21-27-22-15(3)12-16(4)26-25(22)33(21)14-18-8-10-19(11-9-18)23-20(24-28-30-31-29-24)13-17(5)32(23)7-2;/h8-13H,6-7,14H2,1-5H3,(H,28,29,30,31);1H
